US08058313B2
bis((E)-2,4-Difluorostyrylsulfonyl)methane
A solution of 2,4-difluorobenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 75% yield. m.p. 193-195° C.

reactant | 2,4-difluorobenzaldehyde | 2 mmol | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | bis((E)-2,4-Difluorostyrylsulfonyl)methane | 75% yield | FC1=C(/C=C/S(=O)(=O)CS(=O)(=O)\C=C\C2=C(C=C(C=C2)F)F)C=CC(=C1)F | C17H12F4O4S2
